US04039589
4-Bromo-α-ethyl-benzhydrol
0.6 g. of 10% palladium-on-carbon are added to a solution of 29 g. of 4-bromo-α-vinyl-benzhydrol in 300 ml. of benzene, and the mixture is hydrogenated at room temperature under atmospheric pressure. After the uptake of the calculated amount of hydrogen the catalyst is filtered off, and the benzene is evaporated from the clear filtrate under reduced pressure. 25 g. of clear, viscous oil, boiling at 140° C./0.8 mmHg. are obtained as residue.

reactant | 4-bromo-α-vinyl-benzhydrol | BrC1=CC=C(C(C2=CC=CC=C2)(O)C=C)C=C1 | C15H13BrO
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Bromo-α-ethyl-benzhydrol | BrC1=CC=C(C(C2=CC=CC=C2)(O)CC)C=C1 | C15H15BrO
